US04713367
NMM (0.4 g, 4 mmol) and isobutylchloroformate (0.53 g, 4 mmol) are added to the obtained solution, cooled to -15° C. and kept under nitrogen atmosphere and, two minutes later, a DMF solution of Lys(Boc)-PheNH2 (1.6 g, 4 mmol), obtained by cleavage of the benzyloxycarbonyl group from Z-Lys(Boc)-PheNH2 through catalytic hydrogenation over 10% Pd-on-carbon, is added.

reactant | NMM | 4 mmol, 0.4 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 4 mmol, 0.53 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Z-Lys(Boc)-PheNH2 | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N)C(=O)OCC1=CC=CC=C1 | C28H38N4O6
solvent | DMF | CN(C)C=O | C3H7NO
product | Lys(Boc)-PheNH2 | 4 mmol, 1.6 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N | C20H32N4O4
